US06384063B1
(1) Preparation of trans-2-hydroxymethyl-3-ethoxycarbonyl-1-cyclobutanone (Compound e-2)
Under ice cooling, diisopropylamine (0.296 g, 2.92 mmols) was added to a solution of n-butyl lithium (1.59 M/hexane solution, 2.79 mmols) in tetrahydrofuran (8 ml) and the mixture was stirred for 10 minutes. After cooling to −78° C., a solution of 3-ethoxycarbonyl-1-cyclobutanone (Compound e-1) (355.4 mg, 2.50 mmols) in tetrahydrofuran (3 ml) was dropwise added to the mixture, which was then stirred for 15 minutes. After the temperature was once elevated to 0° C., the mixture was stirred for 15 minutes and again cooled to −78° C. Hexamethylphosphoramide (535.8 mg, 2.99 mmols) was added to the system. After stirring for 5 minutes, a solution obtained by trapping formaldehyde subjected to cracking at 160° C. and trapped in diethyl ether of −78° C. was poured into the system through a needle. The reaction was terminated by adding hydrochloric acid and the insoluble matters were filtered off. The filtrate was concentrated in vacuo. The residue was purified by silica gel column chromatography (50 ml, hexane:diethyl ether=1:1 to 1:2) to give Compound (e-2) (50.7 mg, yield: 12%).

reactant | diisopropylamine | 2.92 mmols, 0.296 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 2.79 mmols, 1.59 M | C(CCC)[Li]
reactant | 3-ethoxycarbonyl-1-cyclobutanone | 2.50 mmols, 355.4 mg | C(C)OC(=O)C1CC(C1)=O | C7H10O3
reactant | Hexamethylphosphoramide | 2.99 mmols, 535.8 mg | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
reactant | formaldehyde | C=O | CH2O
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | trans-2-hydroxymethyl-3-ethoxycarbonyl-1-cyclobutanone | yield: 12% | OC[C@@H]1C(C[C@H]1C(=O)OCC)=O | C8H12O4
